US06787551B2
4-[2-(N-methyl-N-(6-(4-anilinyl)pyrimidinyl)amino)ethoxy]benzaldehyde
The title compound (980 mg) was prepared by the same procedure as the preparation 3 except for using 2-[N-methyl-N-(6-(4-anilinyl)pyrimidinyl)amino]ethanol (1.34 g) and 4-fluorobenzaldehyde (1.13 g).

reactant | 2-[N-methyl-N-(6-(4-anilinyl)pyrimidinyl)amino]ethanol | 1.34 g | CN(C1=NC(=CC=N1)C1=CC=C(N)C=C1)CCO | C13H16N4O
reactant | 4-fluorobenzaldehyde | 1.13 g | FC1=CC=C(C=O)C=C1 | C7H5FO
product | 4-[2-(N-methyl-N-(6-(4-anilinyl)pyrimidinyl)amino)ethoxy]benzaldehyde | 980 mg | CN(C1=NC(=CC=N1)C1=CC=C(N)C=C1)CCOC1=CC=C(C=O)C=C1 | C20H20N4O2
